Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
fever, productive cough
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ F with a history of GERD, depression, recently 
broken ribs who presents with 1 week of productive cough, 
myalgias, fever, nonbloody diarrhea, nausea and vomiting. The 
patient has not been seen by a doctor and has not received 
antibiotics recently. She lives with her daughter and was out 
shopping today. Her daughter watched her leaving the store 
shaking and diaphoretic, and decided to take her to the ED. The 
patient has had poor PO intake lately because of her (last meal 
was ___ days ago). She also endorses pain in her chest and lungs 
only with coughing. She does not have underlying lung disease 
and is a nonsmoker. She did receive a flu shot this yr.  
In the ED, initial vital signs were: T 102, HR 108, BP 153/96, 
96% RA. Exam was notable for rhonchi at b/l bases with trace 
expiratory wheezing. Labs showed a wbc 10.4, H/H 13.2/40.1, Plt 
194, chem 7 was normal, UA normal, lactate of 1.1. Initial Tn 
was 0.25, LFTs and lipase were normal.  
Imaging was notable for a CXR which showed mild interstitial 
abnormality suggestive of airway inflammation or atypical  
pneumonia. A flu swab was negative.  
In the ED, the pt reported ___ chest pain at 2315. She was 
given nitroglycerin, her SBP dropped from 104 to 80. She 
received IVF and her blood pressure recovered. Flu negative.  
Cardiology was consulted and recommended admitting to medicine 
without a heparin drip given that her Tn elevation was most 
likely due to demand in the setting of a febrile illness vs 
pericarditis.  
She received Levofloxacin for CAP treatment and was admitted to 
the floor.  
On the floor, she feels much better and denies any dyspnea.  
Review of Systems:  
(+) per HPI  
(-) headache, vision changes, rhinorrhea, congestion, sore 
throat, chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  
 
Past Medical History:
Borderline hypertension,  
uterine fibroids and status post hernia repair 
 
Social History:
___
Family History:
Brother died of an MI at age ___.
 
Physical Exam:
ADMISSION EXAM
==============
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: Diffuse rhonchi with no w or rales  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE EXAM
==============
Vital Signs: 99.5 98.5 98/60-121/70 ___ 96% RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, JVP 
not elevated, no LAD  
Lungs: Rhonchorous lungs sounds throughout lung fields, moderate 
air movement, no wheezes or rales
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Without rashes or lesions
Neuro: moves all extremities well 
 
Pertinent Results:
ADMISSION LABS
==============
___ 06:50PM BLOOD WBC-10.4# RBC-4.28 Hgb-13.2 Hct-40.1 
MCV-94 MCH-30.7 MCHC-32.8 RDW-13.9 Plt ___
___ 06:50PM BLOOD Neuts-88.2* Lymphs-7.8* Monos-2.8 Eos-0.9 
Baso-0.3
___ 06:50PM BLOOD Glucose-103* UreaN-13 Creat-0.9 Na-143 
K-4.7 Cl-104 HCO3-25 AnGap-19
___ 06:50PM BLOOD ALT-21 AST-33 CK(CPK)-107 AlkPhos-74 
TotBili-0.2
___ 06:50PM BLOOD Albumin-4.3
___ 07:04PM BLOOD Lactate-1.1

INTERIM LABS
============
___ 06:50PM BLOOD cTropnT-0.25*
___ 12:57AM BLOOD cTropnT-0.14*

MICROBIOLOGY
=============
___ 12:48 pm SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 

___ 6:35 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

IMAGING/STUDIES
===============
CXR PA/LAT 
FINDINGS: 
The heart is borderline in size. Patchy calcification is noted 
along the
aortic arch. There is no pleural effusion or pneumothorax. There 
is a mild
interstitial abnormality mostly characterized by mild 
peribronchial cuffing.
There is no upper zone redistribution of pulmonary vasculature 
and the
pulmonary vessels appear distinct. Neither hilum appears 
congested. The left
cardiac apex is slightly obscured on the frontal view but 
probably due to a
fat pad rather than a pulmonary opacity.
 
IMPRESSION: 
Mild interstitial abnormality suggestive of airway inflammation 
or atypical
pneumonia.
 
DISCHARGE LABS
==============
___ 05:49AM BLOOD WBC-7.6 RBC-3.56* Hgb-11.2* Hct-32.2* 
MCV-90 MCH-31.4 MCHC-34.8 RDW-14.1 Plt ___
___ 05:49AM BLOOD Glucose-90 UreaN-11 Creat-1.0 Na-139 
K-3.8 Cl-107 HCO3-21* AnGap-___RIEF SUMMARY
===============
___ y/o F with a history of GERD, depression, recently broken 
ribs who presents with 1 week of productive cough, myalgias, 
fever, nonbloody diarrhea, n/v, CXR suggestive of pneumonia vs. 
reactive airway disease.

ACTIVE ISSUES
==============
# Community-acquired pneumonia: 
# Reactive airway disease: The patient presented with productive 
cough, fever, with CXR consistent with a pneumonia. She was 
certainly high risk in the setting of recent rib fracture back 
in ___. Fever curve improved overnight after initiation of 
levofloxacin and her symptoms improved. Also due to concern for 
reactive airway disease, the patient was initiated on a 
prednisone burst on ___. She was discharged with a 5-day total 
course of levofloxacin (last dose ___ and a 5-day total course 
of prednisone 40 mg daily (last dose ___. She was also 
discharged with albuterol and provided with teaching to use a 
spacer. She was given a prescription of tessalone perles for 
symptomatic management. 

# Troponemia: Patient presented with troponemia to 0.25 with 
resolution to 0.14 in the ED. Seen by cardiology while in the 
ED, who believed most likely represented demand ischemia in 
setting of tachycardia at time of arrival. No ECG changes were 
seen. Given her cardiac risk, the patient was provided 
counseling and agreeable to be on baby aspirin and atorvastatin 
40 mg daily. 

# Anemia: Patient with H/H drop to 11.2/32.2 down from 13.2/40. 
Most likely dilutional in the setting of IVF resuscitation vs. 
inflammatory in the setting of acute illness. No evidence of 
active bleeding. Consider further monitoring as outpatient. 

CHRONIC ISSUES
===============
# Hypertension: Stable. Continued home verapamil

# Gastritis: Stable. Continued home omeprazole 
 
TRANSITIONAL ISSUES
===================
# Discharged on levofloxacin 750 mg daily for 3 additional days 
for 5-day total course (last dose ___
# Due to concern for reactive airway dz, started albuterol and 
5-day prednisone burst (last dose ___
# Given troponemia, encouraged patient to continue baby aspirin 
and started atorvastatin 40 mg daily.  Consider stress test as 
an outpatient.
# Found with anemia to 11.25/32.2 with no evidence of bleeding. 
Likely in the setting of acute infection. Consider rechecking to 
ensure resolution.
# Full code
# Emergency Contact:  daughter ___ ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Verapamil SR 180 mg PO Q24H 
2. Omeprazole 40 mg PO DAILY 
3. Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral BID 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Omeprazole 40 mg PO DAILY 
2. Verapamil SR 180 mg PO Q24H 
3. Aspirin 81 mg PO DAILY 
4. Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral BID 
5. PredniSONE 40 mg PO DAILY Duration: 4 Days 
last dose ___ 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*8 Tablet 
Refills:*0
6. Levofloxacin 750 mg PO DAILY Duration: 3 Days 
last dose ___ 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0
7. Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*21 Capsule Refills:*0
8. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
RX *albuterol sulfate 90 mcg 2 puffs IH every 6 hours as needed 
Disp #*1 Inhaler Refills:*0
9. Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth at nighttime Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
# Community-acquired pneumonia
# Reactive airway disease
# Troponemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your hospitalization 
at ___. You came in with fever and shortness of breath. You 
had a chest X-ray that showed pneumonia and we have started you 
on an antibiotic (Levaquin). You should take this for an 
additional 3 days to complete a 5-day total course (last dose 
___. We have also given you a prescription of cough 
medication.

In addition, we believe you have some increased inflammation of 
your airways. We have started you on a steroid medication 
(prednisone), which you should take for an additional 4 days 
(last dose ___. We have also provided you with an albuterol 
inhaler, which you should take for shortness of breath.  Please 
use your spacer.

When you were in the ED, you had an episode of chest pain due to 
the stress of the infection on your heart. We recommend that you 
continue taking an aspirin and have started you on a cholesterol 
medication to maximize your heart health.

We wish you the best,

Your ___ Care Team
 
Followup Instructions:
___